Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Demerol / morphine / Phenergan / promethazine / Reglan / Zofran 
(as hydrochloride) / Atarax / meclizine / adhesive base tape  / 
Tegaderm / gluten / peanuts / FODMAP ( high fodmap foods) / 
Hibiclens
 
Attending: ___.
 
Chief Complaint:
Abdominal Pain
 
Major Surgical or Invasive Procedure:
___
 
History of Present Illness:
___ year old Female with recent ileostomy by Dr ___ on ___, 
who presents with 1 day of right sided abdominal pain. She 
states she was awoken by the pain, and after awakening she had 
one episode of emesis. Patient also notes her stool in her 
ostomy was much more black in nature; although she notes she did 
eat a lot of blueberries the day before. She notes the pain is 
sharp in nature and basically diffuse although somewhat worse on 
the right side. She also was recently admitted to ___ 
___ with C. Diff colitis, which was treated with an entire 
course of flagyl. The patient completed her course on ___.

In addition during her stay at ___, she was 
diagnosed with adrenal insufficiency and was started on 
hydrocortisone supplementation. She notes since then she has had 
some hot flashes very frequently.

In the ED her initial vitals were 98.2, 94, 122/88, 16, 100%. 
The patient was given 1L of IV fluids, ondansetron x2 and 4x 
dilaudid 1mg IV. She underwent a CT which was not concerning for 
an acute process and was seen by the CRS consult with Dr. 
___ did not feel she warranted surgical intervention. 
 
Past Medical History:
Peripheral/sensory neuropathy w urinary self-cath at  
baseline, pan-GI motility disorder, raynaud's  
PSH: diverting ileostomy (___), Takedown of ileostomy (___),  
End sigmoid colostomy (___), Ex lap, end sigmoid colostomy  
revision (___), Open repair parastomal hernia w  
Permacol mesh (___), Lap-assisted parastomal hernia 
 
repair w open revision of colostomy (___),  
Panniculectomy and re-siting of colostomy  
(___)  

 
Social History:
___
Family History:
Mother: Severe chronic constipation
Father: ___
Brother: chronic ___
 
Physical Exam:
ROS:
GEN: - fevers, - Chills, + Weight Loss, + Hot Flashes
EYES: - Photophobia, - Visual Changes
HEENT: - Oral/Gum bleeding
CARDIAC: - Chest Pain, - Palpitations, - Edema
GI: - Nausea, + Vomitting, - Diarhea, + Abdominal Pain, - 
Constipation, - Hematochezia
PULM: - Dyspnea, - Cough, - Hemoptysis
HEME: - Bleeding, - Lymphadenopathy
GU: - Dysuria, - hematuria, - Incontinence
SKIN: - Rash
ENDO: - Heat/Cold Intolerance
MSK: - Myalgia, - Arthralgia, - Back Pain
NEURO: - Numbness, - Weakness, - Vertigo, - Headache
 
PHYSICAL EXAM:
VSS: 99.2, 95/59, 59, 18, 99%
GEN: NAD
Pain: ___
HEENT: EOMI, MMM, - OP Lesions
PUL: CTA B/L
COR: RRR, S1/S2, - MRG
ABD: Diffuse TTP (more Right Side), mild voluntary guarding, - 
rebound, ND, +BS, - CVAT, Ostomy in place with dark stool inside
EXT: - CCE
NEURO: CAOx3, Non-Focal

Exam on discharge:
VS: 98.3 BP: 96/60 P: 66 R: 18 97%RA
I/O: 1260/750
Gen: sitting in bed in NAD
HEENT: MMM, OP clear
Heart - RRR, no M/R/G
Lungs - Clear to anterior auscultation
Abd - able to touch her ostomy herself and her abdomen, no pain
or guarding on deep palpation. pink protruding ostomy with brown
liquid stool , no rebound/guarding, normoactive bowel sounds No
erythema surrounding ostomy, lower abdominal scar well healed
Ext - no edema
Neuro - AOx3, moving all extremities
Psych - appropriate
 
Pertinent Results:
Admission Labs:

___ 08:50AM BLOOD WBC-9.3# RBC-3.84* Hgb-11.6 Hct-35.4 
MCV-92 MCH-30.2 MCHC-32.8 RDW-13.7 RDWSD-45.5 Plt ___
___ 08:50AM BLOOD Neuts-69.1 Lymphs-17.5* Monos-10.5 
Eos-1.5 Baso-0.5 Im ___ AbsNeut-6.40* AbsLymp-1.62 
AbsMono-0.97* AbsEos-0.14 AbsBaso-0.05
___ 08:50AM BLOOD Glucose-112* UreaN-17 Creat-0.6 Na-138 
K-3.9 Cl-101 HCO3-23 AnGap-18
___ 08:50AM BLOOD ALT-15 AST-15 AlkPhos-49 TotBili-0.5
___ 08:50AM BLOOD Lipase-43
___ 08:50AM BLOOD Albumin-4.4
___ 08:50AM BLOOD HCG-<5
___ 09:09AM BLOOD Lactate-1.3
___ 04:50PM URINE Color-Straw Appear-Clear Sp ___
___ 04:50PM URINE Blood-NEG Nitrite-NEG Protein-30 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
___ 04:50PM URINE RBC-3* WBC-1 Bacteri-NONE Yeast-NONE 
Epi-<1

Micro: 
___ 8:50 am BLOOD CULTURE: Blood Culture, Routine 
(Pending): 

___ 4:50 pm URINE
URINE CULTURE (Final ___: MIXED BACTERIAL FLORA ( >= 3 
COLONY TYPES), CONSISTENT WITH SKIN AND/OR GENITAL 
CONTAMINATION. 

___ 9:09 pm URINE      Source: ___. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      ESCHERICHIA COLI.    >100,000 ORGANISMS/ML.. 
         PRESUMPTIVE IDENTIFICATION. 
         Cefazolin interpretative criteria are based on a dosage 
regimen of
         2g every 8h. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMPICILLIN------------   <=2 S
AMPICILLIN/SULBACTAM--   <=2 S
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------  <=16 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

Imaging: 
CT ABD & PELVIS WITH CONTRAST Study Date of ___ 1:46 ___
IMPRESSION:
1. No bowel obstruction. 
2. Wedge-shaped areas of hypodensity involving the hepatic dome 
and inferior right lobe of the liver, likely perfusional and of 
unknown chronicity, possibly reflecting retraction during prior 
surgery. 
3. Postsurgical changes from total abdominal colectomy and 
parastomal hernia  repair.  Small fluid track along the anterior 
abdominal wall and a region of stranding in the superficial soft 
tissues just left of midline, likely correspond to a prior 
laparoscopic port site and an old ostomy site. 
 
CHEST (PA & LAT) Study Date of ___ 2:30 ___ 
IMPRESSION: Normal chest radiograph. 

Abd US ___:
 
FINDINGS: 
Liver:  The hepatic parenchyma is within normal limits, without 
focal lesion corresponding to the CT abnormality.  Nofocal liver 
lesions are identified. There is no ascites. Bile ducts:  There 
is no intrahepatic biliary ductal dilation.  The common hepatic 
duct measures 1 mm.
Gallbladder:  The gallbladder appears within normal limits, 
without stones or abnormal wall thickening or edema.
Pancreas:  Imaged portion of the pancreas appears within normal 
limits, with portions of the pancreatic tail obscured by 
overlying bowel gas.
Spleen:  The spleen demonstrates normal echotexture, and 
measures 11.0 cm.
Kidneys:  The right kidney measures 10.2 cm.  The left kidney 
measures 12.9
cm.  No stones, masses or hydronephrosis are identified in 
either kidney.
 
Doppler evaluation:
 
The main portal vein is patent, with flow in the appropriate 
direction.
Main portal vein velocity is 26.8 cm/sec. Right and left portal 
veins are patent, with antegrade flow.
 
The main hepatic artery is patent, with appropriate waveform.
Right, middle and left hepatic veins are patent, with 
appropriate waveforms. The splenic vein is patent, with 
antegrade flow.  The superior mesenteric vein could not be 
visualized secondary to overlying bowel.
 
IMPRESSION: 
 
Patent hepatic vasculature.  No focal lesion corresponding to 
the CT
abnormality.

 
 
Brief Hospital Course:
Ms. ___ is a ___ with a PMHx of peripheral/sensory 
neuropathic disorder of unclear etiology, pan-intestinal 
motility disorder, s/p ileostomy (___), ileostomy takedown 
(___), end sigmoid colostomy (___) c/b ostomy parastomal 
hernia and ostomy dysfunction requiring multiple revisions 
(___), most recently s/p abdominal colectomy and 
ileostomy repair of parastomal hernia (___) with placement 
of parastomal mesh, recent admission to ___ for reported C. 
diff colitis and ?adrenal insufficiency, who presented with 
severe abdominal pain.

# Abdominal Pain/GI motility Disorder:
Likely neuropathic. Initialy ddx included pain related to known 
dysmotility d/o, post-surgical pain, mesh-related inflammation 
(less likely) and, even less likely, adrenal insufficiency 
(questionable dx and already on hydrocortisone) vs. pain related 
L5 radiculopathy. Per OSH records, pt recently had admission for 
pain (DC ___ at ___ and required PCA, which was later felt 
to not be medically indicated. No clear etiology for pain was 
discovered at that time. During this admission colorectal 
surgery consulted and pt met with Dr. ___. Stool studies were 
sent. Chronic pain service was consulted.  SPEP/UPEP were sent 
given abnormality noted at ___ on prior admission and were 
within normal limits. The patent also underwent an EGD as she 
had the sensation of food getting stuck. The EGD was normal, 
although there was some bile in the stomach consistent with the 
patient's known dismotility. The consulting services felt no 
further inpatient work up was indicated. The patent was then 
transitioned off IV pain medication, IV fluids and diet was 
advanced. The patient was discharged on oral oxycodone liquid 
which she had been on previously. She was also started on 
tizanidine. She was continued on her gabapentin. Her doses of 
amitrpytiline and duloxetine were increased.  he was able to 
tolerate a regular diet (lactose free, gluten free, low FODMAP). 
She will follow up with her gastroenterologist and pain 
specialist at ___ for additional evaluation and management.  
She will need to follow up with Dr. ___ in ___ weeks. No 
source for her pain was identified during this admission.

#Urinary tract infection
The patient self catherizes. She noted blood in her urine, a u/a 
was sent and had RBCs and WBCs. Culture was positive for 
pan-sensitive E. Coli and she was treated with a 7day course of 
Bactrim. 

# Adrenal Insufficiency:
Per OSH record, pt was diagnosed with adrenal insufficiency 
based on hypoglycemia, abd pain and borderline ___ stim test. 
Hydrocortisone was continued. The patient will need endocrine 
follow up. 

# Liver hypodensity:
Noted incidentally on CT scan and previously evaluated at ___ 
(see note from ___ in OMR) with MRI. Found to have lesion of 
unclear significance possibly related to hypoperfusion. Per Dr. 
___ not instrumented during recent surgery. Abdominal 
US did not show e/o hypo perfusion. Recommend outpatient 
follow-up of liver lesion 

# Small fiber neuropathy:
Dx'd on skin bx per OSH records. She was seen by neurology at 
___ who recommended no additional inpatient testing given 
extensive prior testing,. Pt to follow up with her Neurologist 
for further evaluation.

Transitional issues:
- should follow up with GI, pain management, colorectal surgery 
and neurology after discharge
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Hydrocortisone 20 mg PO QAM 
2. Hydrocortisone 10 mg PO Q@1400 
3. Amitriptyline 10 mg PO QHS 
4. Duloxetine 20 mg PO BID 
5. Gabapentin 900 mg PO TID 
6. Lorazepam 0.5-1 mg PO QHS:PRN insomnia 
7. Thiamine 100 mg PO DAILY 
8. Multivitamins W/minerals 1 TAB PO DAILY 
9. Vitamin D 1000 UNIT PO DAILY 
10. Potassium Chloride Dose is Unknown  PO DAILY 
11. Pantoprazole 40 mg PO Q24H 
12. Sucralfate 1 gm PO QID 
13. Florastor Kids (Saccharomyces boulardii) 250 mg oral DAILY 
14. Calcium Carbonate 1000 mg PO DAILY 
15. Magnesium Oxide 400 mg PO DAILY 
16. Zinc Sulfate 220 mg PO DAILY 

 
Discharge Medications:
1. Amitriptyline 50 mg PO QHS 
2. Calcium Carbonate 1000 mg PO DAILY 
3. Duloxetine 30 mg PO BID 
4. Gabapentin 900 mg PO TID 
5. Hydrocortisone 20 mg PO QAM 
6. Hydrocortisone 10 mg PO Q@1400 
7. Lorazepam 0.5-1 mg PO QHS:PRN insomnia 
8. Magnesium Oxide 400 mg PO DAILY 
9. Multivitamins W/minerals 1 TAB PO DAILY 
10. Pantoprazole 40 mg PO Q24H 
11. Thiamine 100 mg PO DAILY 
12. Vitamin D 1000 UNIT PO DAILY 
13. Zinc Sulfate 220 mg PO DAILY 
14. Acetaminophen 1000 mg PO Q8H 
Do not take more than 3 grm daily 
15. OxycoDONE Liquid ___ mg PO Q4H:PRN pain 
Do not drive and take this medication 
RX *oxycodone 5 mg/5 mL ___ mg by mouth q4hs as needed for 
pain Refills:*0
16. Sulfameth/Trimethoprim DS 1 TAB PO BID 
RX *sulfamethoxazole-trimethoprim 800 mg-160 mg 1 tablet(s) by 
mouth Q12hrs Disp #*9 Tablet Refills:*0
17. Florastor Kids (Saccharomyces boulardii) 250 mg oral DAILY 
18. Potassium Chloride 20 mEq PO DAILY 
Hold for K > 
19. Tizanidine 2 mg PO Q6H:PRN pain 
RX *tizanidine 2 mg 1 capsule(s) by mouth Q6hrs as needed for 
pain Disp #*20 Capsule Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Abdominal pain
Urinary tract infection

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Ms. ___,

It was a pleasure taking care of you during your recent 
admission to ___. You were admitted with abdominal pain. You 
were seen by the colorectal team, gastroenterology, neurology 
and the pain service. You had an upper GI endoscopy which was 
normal. Your pain is likely nerve pain related to your recent 
surgery. No other cause was found for your pain. You should 
follow up with your gastroenterologist and with your pain doctor 
for continued management of your abdominal pain.
You were also found to have a urinary tract infection. You will 
be discharged on antibiotics to complete a 7 day course.
 
Followup Instructions:
___